US04652582
1-(4-Toluenesulfonyl)-2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)-1H-pyrrole
A solution of 2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)-1H-pyrrole (31.6 g, 0.1 mole) in 200 ml dry N,N'-dimethylformamide was cooled in an ice bath and treated with sodium hydride (2.4 g, 0.1 mole). The mixture was stirred for one hour and reacted with toluenesulfonyl chloride (19.0 g, 0.1 mole). The mixture was stirred at room temperature and poured into one liter of cold water with vigorous stirring. The resulting precipitate was collected by filtration, washed with water and dried. The off white solid was triturated with 150 ml chloroform, washed with other and dried. The product was collected in 100% yield (46.9 g); m.p. 228.5°-229°.

reactant | 2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)-1H-pyrrole | 0.1 mole, 31.6 g | CS(=O)(=O)C1=CC=C(C=C1)C=1NC=CC1C1=CC=C(C=C1)F | C17H14FNO2S
reactant | sodium hydride | 0.1 mole, 2.4 g | [H-].[Na+]
reactant | toluenesulfonyl chloride | 0.1 mole, 19.0 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | one liter | O | H2O
reactant | N,N'-dimethylformamide | 200 ml | CN(C)C=O | C3H7NO
product | 1-(4-Toluenesulfonyl)-2-(4-methylsulfonylphenyl)-3-(4-fluorophenyl)-1H-pyrrole | 100% yield | C1(=CC=C(C=C1)S(=O)(=O)N1C(=C(C=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C)C | C24H20FNO4S2
